US09079916B2
Preparation of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-(2-chlorobenzyl)pyrazin-2-yl)cyclopropanecarboxamide
To a 0.5 M solution of (2-chlorobenzyl)zinc(II) chloride in THF (0.8 mL, 0.4 mmol) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (8 mg, 0.01 mmol) and the reaction was stirred under nitrogen for 20 minutes. 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-bromopyrazin-2-yl)cyclopropanecarboxamide (36 mg, 0.10 mmol) was added and the reaction was irradiated in the microwave for 10 minutes at 150° C. The reaction was quenched with a saturated ammonium chloride solution (2 mL) and a saturated ethylenediamine tetraacetic acid disodium salt solution (2 mL). The mixture was stirred for 30 minutes before it was extracted with dichloromethane (3×4 mL). The organics were dried over Na2SO4 and evaporated. The crude product was dissolved in DMSO (1 mL) and purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoracetic acid to yield the pure product (16 mg, 0.039 mmol, 39%). ESI-MS m/z calc. 407.1. Found 408.2 (M+1)+; retention time 3.82 minutes.

reactant | (2-chlorobenzyl)zinc(II) chloride | [Cl-].ClC1=C(C[Zn+])C=CC=C1
reactant | THF | 0.4 mmol, 0.8 mL | C1CCOC1 | C4H8O
reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-bromopyrazin-2-yl)cyclopropanecarboxamide | 0.10 mmol, 36 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(N=C2)Br | C15H12BrN3O3
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.01 mmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-(2-chlorobenzyl)pyrazin-2-yl)cyclopropanecarboxamide | 0.039 mmol, 16 mg, 39% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(N=C2)CC2=C(C=CC=C2)Cl | C22H18ClN3O3
